US04940714
1-Methyl-1H-imidazo[4,5-c]quinoline (II-2)
A solution of 2.92 g of 3-amino-4-methylaminoquinoline (V-2) in 20 ml of formic acid was refluxed for 1.5 hours. The reaction mixture was concentrated under reduced pressure and the residue was partitioned between chloroform and saturated aqueous sodium hydrogen-carbonate. The organic layer was washed with brine and dried. The chloroform was removed and the residue was crystallized from n-hexane to give 2.39 g (yield: 77%) of the titled compound (II-2). This was recrystallized from ethyl acetate to give colorless crystals melting at 146°~148° C.

reactant | 3-amino-4-methylaminoquinoline | 2.92 g | NC=1C=NC2=CC=CC=C2C1NC | C10H11N3
reactant | formic acid | 20 ml | C(=O)O | CH2O2
product | 1-Methyl-1H-imidazo[4,5-c]quinoline | 2.39 g, yield: 77% | CN1C=NC=2C=NC=3C=CC=CC3C21 | C11H9N3
